US06303780B1
Part A: Preparation of 5-(t-Butoxycarbonylamino)-2-chloropyridine
To a stirred solution of 2.83 g(22.0 mmol) of 5-amino-2-chloropyridine in 20 mL of anhydrous THF was added 44.0 mL(44.0 mmol) of a 1.0M solution of NaHMDS in toluene over 5 min. The dark solution was stirred 15 min. and 4.36 g(20 mmol) of di-t-butyldicarbonate in 5 mL of THF was introduced over 2 min. The thick mixture was stirred an additional 1 h and poured into 0.5N aq. HCl. The solution was extracted with ethyl acetate, and the organic extract was washed with saturated aq. NaHCO3, water, and brine. The solution was dried (MgSO4), concentrated under reduced pressure, and chromatographed on silica gel(gradient elution with 3:1 hexanes-ether then ether) to give, after evaporation of solvents, 3.81 g(83%) of 5-(t-butoxycarbonylamino)-2-chloropyridine as a white solid, mp 122-123° C. 1H NMR(300 MHz, CDCl3) δ 8.23(d, 1H, J=2 Hz); 7.98(br. d, 1H, J=8 Hz); 7.25(d, 1H, J=8 Hz); 6.58(s, 1H); 1.52(s, 9H).

reactant | 5-amino-2-chloropyridine | 22.0 mmol, 2.83 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-t-butyldicarbonate | 20 mmol, 4.36 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 0.5N | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(t-Butoxycarbonylamino)-2-chloropyridine | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)Cl | C10H13ClN2O2
